US04508735
To a stirred hot (50° C.) solution of 6.2 g (23 mM) of 9-carbamoyl-9-(3-aminopropyl)fluorene in 50 ml of 98% formic acid were added dropwise over ten minutes 17 ml of acetic anhydride. The reaction mixture was cooled to about 30° C. and stirred for one hour, and then added to 100 ml of ice water. The aqueous mixture was diluted by addition of 100 ml of ethyl acetate, and the organic layer was separated, washed with two 50 ml portions of 5% w/v aqueous sodium bicarbonate, twice with 5 ml portions of 1N hydrochloric acid, again with sodium bicarbonate, and finally with water. The solution was dried and the solvent was removed by evaporation under reduced pressure to provide 2.0 g of 9-carbamoyl-9-(3-formamidopropyl)fluorene. mp 160°-161° C.

reactant | 9-carbamoyl-9-(3-aminopropyl)fluorene | 23 mM, 6.2 g | C(N)(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCN | C17H18N2O
reactant | acetic anhydride | 17 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | formic acid | 50 ml | C(=O)O | CH2O2
product | 9-carbamoyl-9-(3-formamidopropyl)fluorene | 2.0 g | C(N)(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCNC=O | C18H18N2O2
